US07598264B2
A solution of 4-hydroxy-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide (0.018 g, 0.068 mmol) in DMF (2 mL) was treated with Cs2CO3 (0.066 g, 0.2 mmol) and 3-chloro-4-fluoro benzyl bromide (0.045 g, 0.2 mmol) and heated to 40° C. The reaction mixture was then cooled to 0 degrees C., a suspension of NaH (95% dispersion in oil, 0.2 mmol) was added and the reaction was warmed to room temperature. After 1 hr the reaction was partitioned between ice water and EtOAc, the organic layer was dried with brine and Na2SO4, filtered and evaporated to give 6-(3-chloro-4-fluorobenzyl)4-[(3-chloro-4-fluorobenzyl)oxy]-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide (ES MS M+1=549.9). This material was then dissolved in CH2Cl2 (3 mL) and treated with 4 drops of a 30% by weight solution of HBr in propionic acid at room temperature. After 20 minutes the solution was concentrated and purified by reverse phase chromatography to give the product.

reactant | 4-hydroxy-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | 0.068 mmol, 0.018 g | OC=1C(N(C(=C2CCNC(C12)=O)C(=O)N(C)C)C)=O | C12H15N3O4
reactant | Cs2CO3 | 0.2 mmol, 0.066 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-chloro-4-fluoro benzyl bromide | 0.2 mmol, 0.045 g | ClC=1C=C(CBr)C=CC1F | C7H5BrClF
reactant | NaH | 0.2 mmol | [H-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-(3-chloro-4-fluorobenzyl)4-[(3-chloro-4-fluorobenzyl)oxy]-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)N(C)C)C)=O)OCC2=CC(=C(C=C2)F)Cl)=O)C=CC1F | C26H23Cl2F2N3O4
